US03992356
Preparation of copolymer of vinyloxycarbonylmethyl salicylate/vinyl stearate (Process 1).
Into a 50 ml flask provided with a condenser, a nitrogen lead in tube and an agitator, there are introduced 1.6 g of sodium salicylate, 4 g of a copolymer composed of 30% vinylchloroacetate and 70% of vinyl stearate (MW = 40,000) and 20 g of dimethylformamide.

reactant | nitrogen lead | [Pb].[N]
reactant | sodium salicylate | 1.6 g | C(C=1C(O)=CC=CC1)(=O)[O-].[Na+]
reactant | vinylchloroacetate | C(=C)C(C(=O)[O-])Cl
reactant | vinyl stearate | C(CCCCCCCCCCCCCCCCC)(=O)OC=C | C20H38O2
solvent | dimethylformamide | 20 g | CN(C=O)C | C3H7NO
product | vinyloxycarbonylmethyl salicylate vinyl stearate | C(C=1C(O)=CC=CC1)(=O)OCC(=O)OC=C.C(CCCCCCCCCCCCCCCCC)(=O)OC=C | InChI=1S/C20H38O2.C11H10O5/c1-3-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(21)22-4-2;1-2-15-10(13)7-16-11(14)8-5-3-4-6-9(8)12/h4H,2-3,5-19H2,1H3;2-6,12H,1,7H2
